US07112593B2
b) 2-Benzyl-3-methoxymethyloxypyridine
While stirring a mixture of 35 g of 2-bromo-3-methoxymethyloxypyridine, 5 g of 1,3-bis(diphenylphosphino)propanenickel (II) chloride and 200 ml of tetrahydrofuran under ice-cooling, a diethyl ether solution of benzylmagnesium bromide prepared from 38 ml of benzyl bromide, 8 g of magnesium and 250 ml of anhydrous diethyl ether was slowly added dropwise thereinto under nitrogen atmosphere. After stirring for 4.5 hours, a saturated aqueous ammonium chloride solution was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography (8–20% ethyl acetate/hexane), to give 27 g of the title compound.

reactant | 2-bromo-3-methoxymethyloxypyridine | 35 g | BrC1=NC=CC=C1OCOC | C7H8BrNO2
reactant | benzylmagnesium bromide | C(C1=CC=CC=C1)[Mg]Br
reactant | benzyl bromide | 38 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | magnesium | 8 g | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | 1,3-bis(diphenylphosphino)propanenickel (II) chloride | 5 g | CC(C)P(C1=CC=CC=C1)C2=CC=CC=C2.C1=CC=C(C=C1)PC2=CC=CC=C2.[Cl-].[Ni]
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-Benzyl-3-methoxymethyloxypyridine | 27 g | C(C1=CC=CC=C1)C1=NC=CC=C1OCOC | C14H15NO2
